US05514680
N-Methyl-1,4-dihydro-2,3-quinoxalinedione was prepared using an adaptation of the method of Cheeseman (J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (3.23 g, 22.1 mmol) and N-methyl-1,2-diaminobenzene (332 mg, 2.72 mmol) was heated to reflux under N2 for 2 h. The reaction was allowed to cool to room temperature and the solid collected by vacuum filtration and rinsed with EtOH. The gray brown solid was further dried under vacuum (0.1 torr, 25° C.) to give 274.3 mg (57.2%). A portion of this solid was further purified by recrystallization from 50 mL EtOH and treatment with activated charcoal to give fluffy pale yellow crystals which were collected by vacuum filtration and rinsed with cold EtOH to yield 104.9 mg. 1H NMR (d6 -DMSO) δ3.50 (s, 3H, CH3), 7.16 (m, 3H, ArH), 7.36 (m, 1H, ArH), 12.01 (s, 1H, NH). EIMS 176 (M+, 52), 148 (33), 119 (100, bp).

reactant | diethyl oxalate | 22.1 mmol, 3.23 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | N-methyl-1,2-diaminobenzene | 2.72 mmol, 332 mg | CNC1=C(C=CC=C1)N | C7H10N2
product | N-Methyl-1,4-dihydro-2,3-quinoxalinedione | CN1C(C(NC2=CC=CC=C12)=O)=O | C9H8N2O2
